US04283341
To a solution of methyl 4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane-1-carboxylate (1.52 g, 0.005 mole) in 10 ml of hexamethylphosphoric triamide was added lithium chloride (0.42 g, 0.010 mole). After heating at 75° for two hours, the cooled reaction mixture was diluted with ether. The ethereal solution was washed with water, dried over magnesium sulfate, and the ether was removed by evaporation, yielding a residue which was purified by column chromatography on silica gel using 9/1 n-hexane/ethylacetate as the eluent to give 4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane (0.34 g, 28% yield) as an oil.

reactant | methyl 4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane-1-carboxylate | 0.005 mole, 1.52 g | ClC(C1OC(C2(C(C12)(C)C)C(=O)OC)=O)(Cl)Cl | C10H11Cl3O4
reactant | lithium chloride | 0.010 mole, 0.42 g | [Cl-].[Li+]
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ether | CCOCC | C4H10O
product | 4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane | 0.34 g, 28% yield | ClC(C1OC(C2C(C12)(C)C)=O)(Cl)Cl | C8H9Cl3O2
